US08227622B2
[4-Acetylamino-3-(4-chlorophenylsulfamyl)-2-methyl-1H-indol-1-yl]acetic acid
To a solution of TCCA (0.326 g, 0.316 g corrected for purity, 1.36 mmol) in EtOAc (10 mL) was added bis(4-chlorophenyl)disulfide (1.18 g, 1.14 g corrected for purity, 4.0 mmol). The solution of ethyl(4-acetylamino-2-methyl-1H-indol-1-yl)acetate and ethyl(4-diacetylamino-2-methyl-1H-indol-1-yl)acetate prepared above was added to the mixture, dropwise, over 10 mins. After stirring for 1 h, the insoluble solid material was removed by filtration. The filtrate was concentrated in vacuo at 40° C. and EtOH (10 mL) was added to the residue to give the product mixture as a solution in EtOH; purity by HPLC: 87.47 area % as a mixture of ethyl [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetate and ethyl [3-(4-chlorophenylsulfanyl)-4-diacetylamino-2-methyl-1H-indol-1-yl]acetate; m/z: 417 and 459, both consistent for MH+. A solution of NaOH (0.326 g, 0.319 g corrected for purity, 8.0 mmol) in water (10 mL) was added to the mixture of ethyl [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetate and ethyl [3-(4-chlorophenylsulfanyl)-4-diacetylamino-2-methyl-1H-indol-1-yl]acetate in EtOH prepared above. After 2 h, EtOH was removed in vacuo at 35° C. The residual aqueous layer was washed with EtOAc (10 mL), diluted with water (10 mL) then acidified to pH 4 with aqueous hydrochloric acid. The resulting product was collected by filtration then slurried in EtOH (10 mL) at 50° C. for 15 mins. After cooling back to r.t., the solid was collected by filtration, washed with EtOH (4.0 mL) then dried in vacuo at 40° C. to give the title compound as a solid; 1.1 g (35.4% over 3 steps); purity by HPLC: 98.24 area %.

reactant | TCCA | 1.36 mmol, 0.326 g | C1(=O)N(C(=O)N(C(=O)N1Cl)Cl)Cl | C3Cl3N3O3
reactant | bis(4-chlorophenyl)disulfide | 4.0 mmol, 1.18 g | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
reactant | ethyl(4-acetylamino-2-methyl-1H-indol-1-yl)acetate | C(C)OC(CN1C(=CC2=C(C=CC=C12)NC(C)=O)C)=O | C15H18N2O3
reactant | ethyl(4-diacetylamino-2-methyl-1H-indol-1-yl)acetate | C(C)OC(CN1C(=CC2=C(C=CC=C12)N(C(C)=O)C(C)=O)C)=O | C17H20N2O4
reactant | ethyl [4-acetylamino-3-(4-chlorophenylsulfanyl)-2-methyl-1H-indol-1-yl]acetate | C(C)(=O)NC1=C2C(=C(N(C2=CC=C1)CC(=O)OCC)C)SC1=CC=C(C=C1)Cl | C21H21ClN2O3S
reactant | ethyl [3-(4-chlorophenylsulfanyl)-4-diacetylamino-2-methyl-1H-indol-1-yl]acetate | ClC1=CC=C(C=C1)SC1=C(N(C2=CC=CC(=C12)N(C(C)=O)C(C)=O)CC(=O)OCC)C | C23H23ClN2O4S
reactant | NaOH | 8.0 mmol, 0.326 g | [OH-].[Na+]
reactant | water | 10 mL | O | H2O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | CCO | C2H6O
product | [4-Acetylamino-3-(4-chlorophenylsulfamyl)-2-methyl-1H-indol-1-yl]acetic acid | C(C)(=O)NC1=C2C(=C(N(C2=CC=C1)CC(=O)O)C)S(NC1=CC=C(C=C1)Cl)(=O)=O | C19H18ClN3O5S
